US06436923B1
A. 2-(4-Fluorophenyl)-1-[4-(1-methylpyrrolidin-3-yloxy)benzyl]-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline
To a solution of 2-(4-fluorophenyl)-1-(4-hydroxybenzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline (0.450 g, 1.02 mmol) in THF (5 ml) was added 1-methyl-3-pyrrolidinol (0.22 ml, 2.04 mmol), tri-n-butyl-phosphine (0.5 ml, 2.04 mmol) and 1,1′ azodicarbonyl dipiperidine (0.5 g, 2.04 mmol) respectively. Dichloromethane (4 ml) was added and the reaction was allowed to stir overnight. The reaction was diluted with aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was dried with MgSO4, filtered and concentrated. The product was purified by radial chromatography (100% CH2Cl2, then CH2Cl2/MeOH, 95:5) to yield the title compound (0.30 g, 56% yield): ES-MS (m/z) 523 [M+H]+.

reactant | 2-(4-fluorophenyl)-1-(4-hydroxybenzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 1.02 mmol, 0.450 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O | C29H26FNO2
reactant | 1-methyl-3-pyrrolidinol | 2.04 mmol, 0.22 ml | CN1CC(CC1)O | C5H11NO
reactant | tri-n-butyl-phosphine | 2.04 mmol, 0.5 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′ azodicarbonyl dipiperidine | 2.04 mmol, 0.5 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | Dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-(4-Fluorophenyl)-1-[4-(1-methylpyrrolidin-3-yloxy)benzyl]-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 0.30 g, 56% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OC1CN(CC1)C | C34H35FN2O2
